* AMCAS TakeHomeLab - 6T read, bitline discharge and margin 
.include NMOS_VTG.inc
.include PMOS_VTG.inc
.param VDD=1.1 VBL=1.1 

Vdd vdd 0 'VDD' 
Vwl wl 0 PWL(0 0 1n 0 1.05n 'VDD') 

MP1 qb q vdd vdd PMOS_VTG W=0.15u L=0.045u 
MN1 qb q 0 0 NMOS_VTG W=0.20u L=0.045u 
MP2 q qb vdd vdd PMOS_VTG W=0.15u L=0.045u 
MN2 q qb 0 0 NMOS_VTG W=0.20u L=0.045u 

MA1 bl wl q 0 NMOS_VTG W=0.16u L=0.045u 
MA2 blb wl qb 0 NMOS_VTG W=0.16u L=0.045u 

Cbl bl 0 180f IC='VBL' 
Cblb blb 0 180f IC='VBL'

.ic v(q)=0 v(qb)='VDD' 
.control 
tran 5p 4n uic
meas tran vbl FIND v(bl) AT=2.0n
meas tran vblb FIND v(blb) AT=2.0n
let dv = vblb-vbl
print dv
meas tran qmax MAX v(q) FROM=1n TO=4n 
wrdata read.csv v(bl) v(blb) v(q) v(qb) 
.endc 
.end