AMCAS Task 3: VDD Sweep

.include NMOS_VTG.inc
.include PMOS_VTG.inc
.param VDD=1.1 VBL=1.1

Vdd vdd 0 'VDD'
Vwl wl 0 PWL(0 0 1n 0 1.05n 'VDD')

MP1 qb q vdd vdd PMOS_VTG W=0.15u L=0.045u
MN1 qb q 0   0   NMOS_VTG W=0.20u L=0.045u
MP2 q  qb vdd vdd PMOS_VTG W=0.15u L=0.045u
MN2 q  qb 0   0   NMOS_VTG W=0.20u L=0.045u

MA1 bl  wl q  0   NMOS_VTG W=0.16u L=0.045u
MA2 blb wl qb 0   NMOS_VTG W=0.16u L=0.045u

Cbl  bl  0 180f IC='VBL'
Cblb blb 0 180f IC='VBL'

.ic v(q)=0 v(qb)='VDD'

.control
  let vdd_val = 1.1
  let step = 0.05
  
  echo "VDD,DeltaV" > task3_sweep.csv
  
  while vdd_val >= 0.20
    alter Vdd = vdd_val
    alter Vwl = [ 0 0 1n 0 1.05n vdd_val ]
    alter @Cbl[IC] = vdd_val
    alter @Cblb[IC] = vdd_val
    
    tran 5p 4n uic
    let delta_v = v(blb) - v(bl)
    meas tran dv FIND delta_v AT=2.0n
    
    echo "$&vdd_val,$&dv" >> task3_sweep.csv
    let vdd_val = vdd_val - step
  end
.endc
.end